US09359381B2
Step 2: 1,3-Dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
1,3-Dimethylpyrimidine-2,4(1H,3H)-dione (commercially available, 40 g, 285 mmol) and toluenesulfonylmethyl isocyanide (commercially available, 84 g, 428 mmol) were dissolved in 2-MeTHF (1000 mL) under nitrogen at 30° C. and held for 5 mins. The vessel was cooled to 0° C. (internal). A solution of KOtBu (commercially available, 64.1 g, 571 mmol) in 2-MeTHF (500 mL was then added to the solution via a dropping funnel over 0.5 h, such that the internal temperature remained below 5° C. On addition of the KOtBu solution, an orange precipitate formed. An additional portion of 2-MeTHF (455 mL) was then charged via dropping funnel over 5 mins. After 40 mins, the dark orange suspension was quenched with sat NH4Cl solution (2×400 mL) charged via dropping funnel over 15 mins. The suspension was diluted with EtOAc (1 L), the layers were separated and the aqueous extracted with EtOAc (3×1 L). The combined organics were dried (MgSO4) and filtered under reduced pressure. The solvent was removed under reduced pressure to afford a brown semi-solid. The solids were suspended in MeOH (300 mL), sonicated and stirred at room temperature for 15 mins, filtered by reduced pressure filtration and washed with MeOH (100 mL). The solid was dried under vacuum at 50° C. for 24 h. The title compound was obtained as a pale brown amorphous solid;

reactant | 1,3-Dimethylpyrimidine-2,4(1H,3H)-dione | CN1C(N(C(C=C1)=O)C)=O | C6H8N2O2
reactant | toluenesulfonylmethyl isocyanide | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | KOtBu | CC(C)(C)[O-].[K+]
solvent | 2-MeTHF | 1000 mL | CC1CCCO1 | C5H10O
solvent | MeOH | 300 mL | CO | CH4O
solvent | 2-MeTHF | 455 mL | CC1CCCO1 | C5H10O
product | 1,3-Dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C(C=2C1=CNC2)=O)C)=O | C8H9N3O2
